US05051422
N-[[4-(3-Chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide
In a manner similar to Preparation 3, react 4-(3-chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinemethanamine(3.0 g, 7.9 mmol) with 4-[(methylsulfonyl)amino]benzoyl chloride (2.4 g, 10mmol) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinemethanamine | 7.9 mmol, 3.0 g | ClC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CN | C20H26ClN3O2
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 10mmol, 2.4 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-[[4-(3-Chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide | ClC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C28H33ClN4O5S
